US06960589B2
2-[(4-pyridin-2-ylpiperazin-1-yl)methyl]-1H-benzimidazole tris(hydrochloride)
A solution of 5.6M HCl in isopropanol (3 mL, 16.8 mmol) was diluted with isopropanol (10 mL), treated with 2-[(4-pyridin-2-ylpiperazin-1-yl)methyl]-1H-benzimidazole (1 g, 3.4 mmol), and stirred at ambient temperature for 17 hours. The suspension was filtered, washed with isopropanol (about 2 mL), and dried under reduced pressure to provide the title compound as a solid. Elemental analysis calc'd: C, 50.70; H, 5.51; N, 17.39; Cl, 26.41. Found: C, 50.48; H, 5.42; N, 17.14; Cl, 26.33; mp 260° C., DSC: broad endotherm at 233.31° C., followed by a broad exotherm.

reactant | HCl | 5.6M | Cl | ClH
reactant | 2-[(4-pyridin-2-ylpiperazin-1-yl)methyl]-1H-benzimidazole | 3.4 mmol, 1 g | N1=C(C=CC=C1)N1CCN(CC1)CC1=NC2=C(N1)C=CC=C2 | C17H19N5
solvent | isopropanol | 10 mL | C(C)(C)O | C3H8O
solvent | isopropanol | 16.8 mmol, 3 mL | C(C)(C)O | C3H8O
product | 2-[(4-pyridin-2-ylpiperazin-1-yl)methyl]-1H-benzimidazole tris(hydrochloride) | Cl.Cl.Cl.N1=C(C=CC=C1)N1CCN(CC1)CC1=NC2=C(N1)C=CC=C2 | InChI=1S/C17H19N5.3ClH/c1-2-6-15-14(5-1)19-16(20-15)13-21-9-11-22(12-10-21)17-7-3-4-8-18-17;;;/h1-8H,9-13H2,(H,19,20);3*1H
